US09353107B2
Step-ii: N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-hydroxypyridin-3-yl)methanesulfonamide
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-5-(6-methoxy-5-(methylsulfonamido)pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (61 mg, 0.098 mmol) was deprotected in HCl in MeOH (3 ml) to afford 5 mg (11.3% yield) of the titled compound. 1H NMR (CD3OD, 300 MHz): δ 8.71-8.62 (d, 2H), 7.91-7.88 (d, 2H), 7.68 (s, 1H), 7.47-7.42 (m, 1H), 7.15-7.02 (m, 3H), 6.60 (s, 1H), 5.57 (s, 2H), 3.09 (s, 3H), 2.36 (s, 3H), 2.35 (s, 3H). MS: m/z=506.8 (M+1), HPLC: 90.22% in method B.

reactant | tert-butyl 3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-5-(6-methoxy-5-(methylsulfonamido)pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.098 mmol, 61 mg | FC=1C=C(CN2N=C(C(=C2C)C2=CN(C3=NC=C(C=C32)C=3C=NC(=C(C3)NS(=O)(=O)C)OC)C(=O)OC(C)(C)C)C)C=CC1 | C31H33FN6O5S
solvent | HCl | Cl | ClH
solvent | MeOH | 3 ml | CO | CH4O
product | N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-hydroxypyridin-3-yl)methanesulfonamide | 5 mg, 11.3% yield | FC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C=3C=C(C(=NC3)O)NS(=O)(=O)C)C)C=CC1 | C25H23FN6O3S
